US04052412
4-(9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-2-yl)-4-oxobutyric acid
11.0 g of succinic acid anhydride are dissolved in 220 cc of anhydrous methylene chloride with heating, the resulting solution is cooled to 20° and 30 g of aluminium chloride are added portionwise. After stirring for 15 minutes at room temperature, a solution of 22.0 g of 9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene in 100 cc of anhydrous methylene chloride is added dropwise within 30 minutes, the resulting mixture is stirred for a further 45 minutes at room temperature and is poured on a mixture of 200 cc of concentrated hydrochloric acid and 200 g of ice. After adding 300 cc of methylene chloride, the entire mixture is heated for 15 minutes on a water bath, is cooled, the methylene chloride is removed and the aqueous phase is further extracted with methylene chloride. The acidic portion is extracted from the combined methylene chloride solutions with 0.5 normal caustic soda, the basic extract is acidified with 5 N hydrochloric acid and extracted with chloroform. The chloroform solutions are washed with water, dried over magnesium sulphate, filtered through active charcoal and evaporated to dryness. The title compound, obtained as solid residue, is recrystallized from dimethyl formamide/acetone. M.P. 202° to 203°.

reactant | succinic acid anhydride | 11.0 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminium chloride | 30 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene | 22.0 g | S1C2=C(C=C1)CC1=C(CC2)C=CC=C1 | C13H12S
reactant | hydrochloric acid | 200 cc | Cl | ClH
solvent | methylene chloride | 220 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 cc | C(Cl)Cl | CH2Cl2
product | 4-(9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-2-yl)-4-oxobutyric acid | S1C2=C(C=C1C(CCC(=O)O)=O)CC1=C(CC2)C=CC=C1 | C17H16O3S
